US05973148
5. Preparation of N-(2-Chloro-6-methoxycarbonylphenyl)-S-methyl-S-phenylsulfilimine
A solution of 3.0 g (24 mmol) of methyl phenyl sulfide in 30 mL of dichloromethane was cooled to -10° C. and 1.7 g (24 mmol) of chlorine was sparged in with cooling and stirring. To this was added with cooling and stirring 4.5 g (24 mmol) of solid methyl 6-chloroanthranilate and then 3.8 g (48 mmol) of pyridine. The product mixture contained the title compound and methyl 6-chloroanthranilate in a 60:40 ratio as determined by HPLC.

reactant | methyl phenyl sulfide | 24 mmol, 3.0 g | C1(=CC=CC=C1)SC | C7H8S
reactant | chlorine | 24 mmol, 1.7 g | ClCl | Cl2
reactant | methyl 6-chloroanthranilate | ClC=1C=CC=C(C1C(=O)OC)N | C8H8ClNO2
reactant | pyridine | 48 mmol, 3.8 g | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | N-(2-Chloro-6-methoxycarbonylphenyl)-S-methyl-S-phenylsulfilimine | ClC1=C(C(=CC=C1)C(=O)OC)N=S(C1=CC=CC=C1)C | C15H14ClNO2S
